US07700641B2
B. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 1D, and making non-critical variations to replace 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one with 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one, the title compound was obtained (98%) as a white powder: MS (ES+) m/z 306.2 (M+1), 304.2 (M+1).

reactant | 4-bromo-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC1=C2C(C(N(C2=CC=C1)CCCCC)=O)(C1=CC2=C(OCO2)C=C1O)O | C20H20BrNO5
reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(NC2=CC=CC=C12)=O)O)O | C14H10BrNO3
product | 3-(5-bromo-2-hydroxyphenyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1C(NC2=CC=CC=C12)=O)O | C14H10BrNO2
